US07517532B2
Step 2: 2-(1,1′-Biphenyl-3-ylmethyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione
A solution of 8,9-dihydroxy-2-(3-iodobenzyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione (0.05 g, 0.121 mmol) in DMF (5 mL) was degassed for 5 minutes with nitrogen and placed under an atmosphere of nitrogen. To this was added phenyl boronic acid (0.015 g, 0.123 mmol), triethylamine (0.051 mL, 0.364 mmol), and bis(tri-t-butylphosphine)palladium(0) (0.003 g, 0,006 mmol) and heated with stirring at 110° C. overnight. The product mixture was concentrated under vacuum, and the residue was triturated with methylene chloride. The resultant precipitate was filtered off and the filtrate concentrated under vacuum. The filtrate residue was subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Desired fractions were concentrated under vacuum to afford the title compound as off white solid.

reactant | 8,9-dihydroxy-2-(3-iodobenzyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione | 0.121 mmol, 0.05 g | OC=1C(=C2N(CCN(C2=O)CC2=CC(=CC=C2)I)C(C1)=O)O | C15H13IN2O4
reactant | phenyl boronic acid | 0.123 mmol, 0.015 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 0.364 mmol, 0.051 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0,006 mmol, 0.003 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 2-(1,1′-Biphenyl-3-ylmethyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione | C1(=CC(=CC=C1)CN1C(C=2N(CC1)C(C=C(C2O)O)=O)=O)C2=CC=CC=C2 | C21H18N2O4
